US05264433
A mixture of indole-2-carboxylic acid (2.18 g), N,N-dimethylformamide (52 mg) and thionyl chloride (1.0 ml) in dry dichloromethane (22 ml) was refluxed for 1 hour to give a solution of 2-indolylcarbonyl chloride.

reactant | indole-2-carboxylic acid | 2.18 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | N,N-dimethylformamide | 52 mg | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
product | 2-indolylcarbonyl chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
